datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCCCNCC[NH:10]CCCC.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CCCCNCC[NH+:10](CCCC)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CCOCC[NH+:21](c1cccc(OC)c1)[H:20].C[N:10](C)CCBr>>CCOCC[NH:21]c1cccc(OC)c1.C[N+:10](C)(CCBr)[H:20] 10=20;20,21=21",
"ClCC1C[N+:21]2([H:20])CCC1CC2.Ic1cccc2ccc([O-:10])cc12>>ClCC1C[N:21]2CCC1CC2.Ic1cccc2ccc([O:10][H:20])cc12 10=20;20,21=21",
"N#CCCN(CCC#N)c1nnn[n-:10]1.O=C([O-])c1[nH]c2ccc(Cl)cc2[n+:21]1[H:20]>>N#CCCN(CCC#N)c1nnn[n:10]1[H:20].O=C([O-])c1[nH]c2ccc(Cl)cc2[n:21]1 10=20;20,21=21",
"CCc1[nH]cc[n+:21]1[H:20].COc1cccc(C[N:10](C)C)c1O>>CCc1[nH]cc[n:21]1.COc1cccc(C[N+:10](C)(C)[H:20])c1O 10=20;20,21=21",
"CC(C)c1cccc[n:10]1.O=S1(=O)[N-]C=Nc2cc(Cl)c(S(=O)(=O)[NH:21][H:20])cc21>>CC(C)c1cccc[n+:10]1[H:20].O=S1(=O)[N-]C=Nc2cc(Cl)c(S(=O)(=O)[NH-:21])cc21 10=20;20,21=21",
"CC1=CC(=O)Oc2cc([O-:10])ccc21.Cc1ccc(C(=O)[O:21][H:20])cc1>>CC1=CC(=O)Oc2cc([O:10][H:20])ccc21.Cc1ccc(C(=O)[O-:21])cc1 10=20;20,21=21",
"COc1ccccc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N+:21]2(Cc1ccccc1)[H:20].C[n+]1cnc2c(ncc([O-])[n:10]2)c1[O-]>>COc1ccccc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N:21]2Cc1ccccc1.C[n+]1cnc2c(ncc([O-])[n+:10]2[H:20])c1[O-] 10=20;20,21=21",
"CC(C#N)C(C)(C)C(=O)[O:21][H:20].OC[C@@H]1O[C@H]2[C@H](OC(=S)[N-:10]2)[C@H]1O>>CC(C#N)C(C)(C)C(=O)[O-:21].OC[C@@H]1O[C@H]2[C@H](OC(=S)[N:10]2[H:20])[C@H]1O 10=20;20,21=21",
"C=CC[N:10](CC=C)CCCNC(=O)/C=N/[O-].CC[N+:21](CC)(CCCC(C)Nc1cc(OC)cc2cccnc12)[H:20]>>C=CC[N+:10](CC=C)(CCCNC(=O)/C=N/[O-])[H:20].CC[N:21](CC)CCCC(C)Nc1cc(OC)cc2cccnc12 10=20;20,21=21",
"CCCC[N:10](CCCC)c1ccc([N+](=O)[O-])cc1.O=C(O)c1c[n+:21]([H:20])ccn1>>CCCC[N+:10](CCCC)(c1ccc([N+](=O)[O-])cc1)[H:20].O=C(O)c1c[n:21]ccn1 10=20;20,21=21",
"C=CCC1(CC=C)SC(=O)[N-:10]C1=O.CCC1C[NH+:21]1[H:20]>>C=CCC1(CC=C)SC(=O)[N:10]([H:20])C1=O.CCC1C[NH:21]1 10=20;20,21=21",
"CC(C[N:10](C)C)C(C#N)(c1ccccc1)c1ccccc1.CC[N:21](C(=S)OC(C)C)[H:20]>>CC(C[N+:10](C)(C)[H:20])C(C#N)(c1ccccc1)c1ccccc1.CC[N-:21]C(=S)OC(C)C 10=20;20,21=21",
"CCOC(=O)c1c(C)nc(C)c(C(=O)OCC)c1-c1cccc([N:21](S(=O)(=O)c2ccc(N)cc2)[H:20])c1.C[n+]1ccc(N)[n:10]c1[O-]>>CCOC(=O)c1c(C)nc(C)c(C(=O)OCC)c1-c1cccc([N-:21]S(=O)(=O)c2ccc(N)cc2)c1.C[n+]1ccc(N)[n+:10]([H:20])c1[O-] 10=20;20,21=21",
"Cc1csc[n+:21]1[H:20].[NH3+]C(Cc1c[n:10]c[nH]1)C(=O)NCC(=O)[O-]>>Cc1csc[n:21]1.[NH3+]C(Cc1c[n+:10]([H:20])c[nH]1)C(=O)NCC(=O)[O-] 10=20;20,21=21",
"CCc1ccc[n:10]c1.C[N+](C)(C)CCc1cccc([O:21][H:20])c1>>CCc1ccc[n+:10]([H:20])c1.C[N+](C)(C)CCc1cccc([O-:21])c1 10=20;20,21=21",
"CC(C)(C)[C@]1(O)CC[N+:21]2([H:20])C[C@H]3c4ccccc4CCc4cccc(c43)[C@@H]2C1.O=C([C@@H]1O[C@H](Oc2ccc(I)cc2)[C@@H](O)[C@H](O)[C@H]1O)[O-:10]>>CC(C)(C)[C@]1(O)CC[N:21]2C[C@H]3c4ccccc4CCc4cccc(c43)[C@@H]2C1.O=C([C@@H]1O[C@H](Oc2ccc(I)cc2)[C@@H](O)[C@H](O)[C@H]1O)[O:10][H:20] 10=20;20,21=21",
"CCCCC/C(N)=[N:10]\N(C)C.c1ccc2c[n+:21]([H:20])ncc2c1>>CCCCC/C(N)=[N+:10](\N(C)C)[H:20].c1ccc2c[n:21]ncc2c1 10=20;20,21=21",
"Cn1cnc2c([O-])[n:10]cnc21.Oc1ccccc1[NH2+:21][H:20]>>Cn1cnc2c([O-])[n+:10]([H:20])cnc21.Oc1ccccc1[NH2:21] 10=20;20,21=21",
"O=C([O-])CC(NC(=O)C(CC(=O)[O-])[NH2:10])C(=O)[O-].O=[N+]([O-])c1cc2[nH]c[n+:21]([H:20])c2cc1[N+](=O)[O-]>>O=C([O-])CC(NC(=O)C(CC(=O)[O-])[NH2+:10][H:20])C(=O)[O-].O=[N+]([O-])c1cc2[nH]c[n:21]c2cc1[N+](=O)[O-] 10=20;20,21=21",
"CCN[NH:10]CC.COC(=O)[C@H]1[C@H]2CC[C@@H](C[C@H]1OC(=O)c1ccccc1)[N+:21]2(C)[H:20]>>CCN[NH+:10](CC)[H:20].COC(=O)[C@H]1[C@H]2CC[C@@H](C[C@H]1OC(=O)c1ccccc1)[N:21]2C 10=20;20,21=21",
"CC1(C)S[C@H]2[C@@H](NC(=O)Cc3ccc([NH2+:21][H:20])cc3)C(=O)N2[C@@H]1C(=O)[O-].CCC(Oc1ccccc1C)C(=O)[O-:10]>>CC1(C)S[C@H]2[C@@H](NC(=O)Cc3ccc([NH2:21])cc3)C(=O)N2[C@@H]1C(=O)[O-].CCC(Oc1ccccc1C)C(=O)[O:10][H:20] 10=20;20,21=21",
"COc1nc2ccccc2[n+:21]([H:20])c1C.C[Si](C)(C)CC[NH2:10]>>COc1nc2ccccc2[n:21]c1C.C[Si](C)(C)CC[NH2+:10][H:20] 10=20;20,21=21",
"CNCC[NH:10]C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CNCC[NH+:10](C)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C=CCc1c(C)nn(C)c1[O-:10].c1nc2ccc([O:21][H:20])cc2s1>>C=CCc1c(C)nn(C)c1[O:10][H:20].c1nc2ccc([O-:21])cc2s1 10=20;20,21=21",
"CCOC(=O)c1c[n:10]c2ccccc2c1[O-].c1ccc([NH2+:21][H:20])cc1>>CCOC(=O)c1c[n+:10]([H:20])c2ccccc2c1[O-].c1ccc([NH2:21])cc1 10=20;20,21=21",
"CN(C)C([OH2+])[O:21][H:20].C[N+]1(CCCCC(=O)[O-:10])CCCCC1>>CN(C)C([OH2+])[O-:21].C[N+]1(CCCCC(=O)[O:10][H:20])CCCCC1 10=20;20,21=21",
"CC(C)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=CC=C2)[H:20])C=C1>>CC(C)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=CC=C2)C=C1 10=20;20,21=21",
"O=[N+]([O-])c1cc2[nH]c[n:10]c2cc1[N+](=O)[O-].c1cc[n+:21]([H:20])c(-c2[nH]c3ccccc3[nH+]2)c1>>O=[N+]([O-])c1cc2[nH]c[n+:10]([H:20])c2cc1[N+](=O)[O-].c1cc[n:21]c(-c2[nH]c3ccccc3[nH+]2)c1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20].[NH3+]CCC[NH:10]CCC[NH3+]>>O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-].[NH3+]CCC[NH+:10](CCC[NH3+])[H:20] 10=20;20,21=21",
"N#Cc1ccc([NH2+:21][H:20])c2ccccc12.O=C(c1ccccc1-c1ccccc1)[O-:10]>>N#Cc1ccc([NH2:21])c2ccccc12.O=C(c1ccccc1-c1ccccc1)[O:10][H:20] 10=20;20,21=21",
